US04149005
In the same apparatus and following the same modalities as in Example 1, 5 g (0.0255 mole) of 1-(m-chlorophenyl)-3-amino-2-pyrazoline were suspended in 25 ml of ethanol with addition of 0.2 g of CuCl, under an oxygen head. Oxidation was concluded after about 3 hours. The oxidized product was recovered as in Example 1, obtaining 3.6 g of 1-(m-chlorophenyl)-3-aminopyrazole, melting at 106°-107° C.

reactant | 1-(m-chlorophenyl)-3-amino-2-pyrazoline | 0.0255 mole, 5 g | ClC=1C=C(C=CC1)N1N=C(CC1)N | C9H10ClN3
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | CuCl | 0.2 g | Cl[Cu]
product | 1-(m-chlorophenyl)-3-aminopyrazole | 3.6 g | ClC=1C=C(C=CC1)N1N=C(C=C1)N | C9H8ClN3
